US04237056
PREPARATION OF N-(1,3-DIOXOLAN-2-YLMETHYL)-2-CHLOROACETAMIDE
N-(2,2-Dimethoxyethyl)-2-chloroacetamide (18.1 grams; 0.10 mole) ethylene glycol (6.82 grams; 0.11 mole) and 10 drops of a solution of one gram of p-toluenesulfonic acid in 100 ml of diethyl ether were charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer, distillation heat and condenser. The mixture was stirred and heated to about 95° C. to 100° C. Byproduct methanol was distilled off. When no further methanol was evolved, the mixture was cooled to room temperature, sodium carbonate (2 grams) was added and the slurry was stirred for a period of about 1 hour. The slurry was then filtered and the filtrate fractionally distilled under reduced pressure the desired product N-(1,3-dioxolan-2-ylmethyl)-2-chloroacetamide was obtained as a fraction boiling at 109° C.-110° C. at 0.15 mm Hg which, when cooled, solidified. The solid had a melting point of 61° C.-63° C.

reactant | N-(2,2-Dimethoxyethyl)-2-chloroacetamide | 0.10 mole, 18.1 grams | COC(CNC(CCl)=O)OC | C6H12ClNO3
reactant | ethylene glycol | 0.11 mole, 6.82 grams | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | one gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(1,3-DIOXOLAN-2-YLMETHYL)-2-CHLOROACETAMIDE | O1C(OCC1)CNC(CCl)=O | C6H10ClNO3
